US05225402
To 1-{1-[4-(5-carboxypentyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (2.00 g) are added 3,4-diaminopyridine (0.47 g), phosphorus pentoxide (1.00 g) and methanesulfonic acid (7.0 ml) and the mixture is stirred with heating at 100°-120° C. for 3 hours. After cooling, the reaction solution is poured into ice-water (30 ml) and the mixture is adjusted to around pH 11 with aqueous sodium hydroxide solution and extracted with dichloromethane. The extract is dried with magnesium sulfate and the solvent is distilled off. The resulting residue is purified by silica gel column chromatography (solvent: dichloromethane:methanol =20:1→9:1) to give 1-{1-[4-(5-(imidazo[4,5-c]pyridine-2-yl)carboxypentyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (1.32 g) as white amorphous form.

reactant | 1-{1-[4-(5-carboxypentyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 2.00 g | C(=O)(O)CCCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C27H32N2O5
reactant | 3,4-diaminopyridine | 0.47 g | NC=1C=NC=CC1N | C5H7N3
reactant | phosphorus pentoxide | 1.00 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methanesulfonic acid | 7.0 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-{1-[4-(5-(imidazo[4,5-c]pyridine-2-yl)carboxypentyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 1.32 g | N1C(=NC=2C=NC=CC21)C(CCCCOC2=CC=C(C(=O)N1CCC(CC1)N1C(=O)CCC3=CC=CC=C13)C=C2)C(=O)O | C33H35N5O5
